US04071625
A solution of 3-ethoxy-1α-methyl-3,5-androstadien-17β,19-diol dipropionate in ethyl acetate is hydrogenated with platinum oxide at atmospheric pressure. The solution is filtered and the solvent removed under reduced pressure. The residue is taken up in aqueous methanol containing a drop of hydrochloric acid and stirred for 20 minutes at room temperature. The methanol is removed and ether added. The ether extract is washed with water, dried over magnesium sulfate and concentrated. Crystallization of the residue from an acetone-hexane solution yields 17β,19-dihydroxy-1α-methyl-5α-androstan-3-one dipropionate.

reactant | 3-ethoxy-1α-methyl-3,5-androstadien-17β,19-diol dipropionate | C(CC)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(C[C@@H]([C@]3(COC(CC)=O)[C@H]1CC2)C)OCC | C28H42O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | [Pt]=O
product | 17β,19-dihydroxy-1α-methyl-5α-androstan-3-one dipropionate | C(CC)(=O)O.C(CC)(=O)O.O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(C[C@@H]([C@]3(CO)[C@H]1CC2)C)=O | InChI=1S/C20H32O3.2C3H6O2/c1-12-9-14(22)10-13-3-4-15-16-5-6-18(23)19(16,2)8-7-17(15)20(12,13)11-21;2*1-2-3(4)5/h12-13,15-18,21,23H,3-11H2,1-2H3;2*2H2,1H3,(H,4,5)/t12-,13-,15-,16-,17-,18-,19-,20-;;/m0../s1
